US06921433B2
Four parts of a styrene/methacrylic acid copolymer (acid value: 250; molecular weight: 15,000) and 1 part of ELEMINOL RS-30 (trade name, product of Sanyo Chemical Industries, Ltd.) as dispersing agents were dissolved in 80 parts of dimethyl sulfoxide, and 10 parts of an isoindolinone pigment (C.I. Pigment Yellow 109) were suspended in the resultant solution in a flask at 25° C. under an air atmosphere. A 30% methanol solution of potassium hydroxide was then added dropwise little by little to dissolve the isoindolinone pigment. After the pigment solution was stirred for 3 hours, lauroyl peroxide as a polymerization initiator was added to and dissolved in the pigment solution in a proportion of 0.1 parts per 10 parts of the pigment, and the resultant solution was quickly poured into ion-exchanged water (400 parts of ion-exchanged water per 10 parts of the pigment; 0° C.) stirred by an impellor type agitating blade (800 rpm), purged with nitrogen and cooled and temperature-maintained by means of 2 system dispensers (manufactured by Musashi Engineering K.K.; needle internal diameter: 0.57 mm; delivery pressure: 4.0 kgf/cm2) to obtain an aqueous dispersion of isoindolinone-pigment-containing particles having an average particle diameter of 39.9 nm. This aqueous dispersion was transferred to a reaction vessel equipped with a mantle heater, cooling tower, stirrer and thermometer and purged with nitrogen. While continuing purging with nitrogen and stirring at 300 rpm, styrene and methacrylic acid as ethylenically unsaturated compounds were then added dropwise over 3 hours in proportions of 5.5 parts and 0.5 parts, respectively, per 10 parts of the pigment. The system was then heated to an internal temperature of 80° C. to continue the reaction for 8 hours while retaining the temperature of 80° C. After the reaction was conducted for additional 1 hour at a temperature raised to 90° C., the reaction mixture was cooled back to room temperature.

reactant | styrene methacrylic acid | C=CC1=CC=CC=C1.C(C(=C)C)(=O)O
reactant | methanol | CO | CH4O
reactant | potassium hydroxide | [OH-].[K+]
reactant | lauroyl peroxide | C(CCCCCCCCCCC)(=O)OOC(CCCCCCCCCCC)=O | C24H46O4
reactant | pigment | CC1=C(C=CC=C1NC2=NC(=O)C3=C2C(=C(C(=C3Cl)Cl)Cl)Cl)NC4=NC(=O)C5=C4C(=C(C(=C5Cl)Cl)Cl)Cl | C23H8Cl8N4O2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | isoindolinone | C1(NCC2=CC=CC=C12)=O | C8H7NO
solvent | water | O | H2O
product | isoindolinone pigment | C1(NCC2=CC=CC=C12)=O.CC1=C(C=CC=C1NC2=NC(=O)C3=C2C(=C(C(=C3Cl)Cl)Cl)Cl)NC4=NC(=O)C5=C4C(=C(C(=C5Cl)Cl)Cl)Cl | InChI=1S/C23H8Cl8N4O2.C8H7NO/c1-5-6(32-20-8-10(22(36)34-20)14(26)18(30)16(28)12(8)24)3-2-4-7(5)33-21-9-11(23(37)35-21)15(27)19(31)17(29)13(9)25;10-8-7-4-2-1-3-6(7)5-9-8/h2-4H,1H3,(H,32,34,36)(H,33,35,37);1-4H,5H2,(H,9,10)
